US09216992B2
Benzyl-(3,7-di-p-tolyl-thieno[3,2-c]pyridine-4-yl)-amine
A microwave reaction vessel was charged with benzyl-(7-bromo-3-p-tolyl-thieno[3,2-c]pyridin-4-yl)amine (20.0 mg, 0.0489 mmol), 4-methylphenylboronic acid (6.6 mg, 0.0489 mmol), palladium (II) acetate (1.0 mg, 0.00489 mmol), triphenylphosphine (3.8 mg, 0.0147 mmol) and sodium carbonate (15.5 mg, 0.147 mmol). The reaction was solvated in DME (0.75 ml) and distilled water (0.25 ml), the tube sealed, and set to stir in a Biotage microwave reactor. The reaction was heated at 150° C. for 1 h. At which point the reaction was allowed to cool to room temperature and further diluted with distilled water (10 ml). The aqueous phase was then extracted with DCM (2×20 ml), dried (MgSO4), filtered and the solvent removed in vacuo. The crude residue was subjected to flash column chromatography (eluent petroleum spirit 40-60° C.:EtOAc, 10:1, Rf 0.3). This afforded the title compound as a yellow solid (11.0 mg, 53%).

reactant | benzyl-(7-bromo-3-p-tolyl-thieno[3,2-c]pyridin-4-yl)amine | 0.0489 mmol, 20.0 mg | C(C1=CC=CC=C1)NC1=NC=C(C2=C1C(=CS2)C2=CC=C(C=C2)C)Br | C21H17BrN2S
reactant | 4-methylphenylboronic acid | 0.0489 mmol, 6.6 mg | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | triphenylphosphine | 0.0147 mmol, 3.8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 0.147 mmol, 15.5 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 0.75 ml | COCCOC | C4H10O2
catalyst | palladium (II) acetate | 0.00489 mmol, 1.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Benzyl-(3,7-di-p-tolyl-thieno[3,2-c]pyridine-4-yl)-amine | 11.0 mg, 53% | C(C1=CC=CC=C1)NC1=NC=C(C2=C1C(=CS2)C2=CC=C(C=C2)C)C2=CC=C(C=C2)C | C28H24N2S
